US08877975B2
N,N-dimethyl-1-(1-(4-(trifluoromethyl)phenyl)-cyclohexyl)methanamine (101)
The title compound was prepared from 1-(4-(trifluoromethyl)phenyl)cyclohexane-carbaldehyde (128 mg, 0.50 mmol) and dimethylamine (2.0 M in THF, 0.5 ml, 1.0 mmol) according to General Procedure H2.The crude product was purified by silica gel column chromatography (MeOH/CH2Cl2, MeOH from 0% to 15%) to give N,N-dimethyl-1-(1-(4-(trifluoromethyl)phenyl)-cyclohexyl)methanamine (47 mg, 33%). 1H NMR (CDCl3): δ 1.29-1.38 (m 3H), 1.48-1.57 (m, 3H), 1.62-1.68 (m, 2H), 1.97 (s, 6H), 2.13-2.18 (m, 2H), 2.35 (s, 2H), 7.49 (d, J=8.4 Hz, 2H), 7.55 (d, J=8.4 Hz, 2H). 13C NMR (CDCl3) δ 22.4, 26.7, 34.4, 37.5, 43.9, 48.6, 72.8, 123.3, 125.0, 125.1, 126.0, 127.6, 127.9, 128.3, 150.8.ESI MS m/z 286.

reactant | 1-(4-(trifluoromethyl)phenyl)cyclohexane-carbaldehyde | 0.50 mmol, 128 mg | FC(C1=CC=C(C=C1)C1(CCCCC1)C=O)(F)F | C14H15F3O
reactant | dimethylamine | 1.0 mmol, 2.0 M, 0.5 ml | CNC | C2H7N
product | N,N-dimethyl-1-(1-(4-(trifluoromethyl)phenyl)-cyclohexyl)methanamine | 47 mg, 33% | CN(CC1(CCCCC1)C1=CC=C(C=C1)C(F)(F)F)C | C16H22F3N
